US04985444
A mixture of 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.40 g), chloral hydrate (0.70 g) and pyridine (4 ml) was stirred for 20 hours at 90-100° C. After cooling, to the reaction mixture was added methylene chloride (4 ml) and water (4 ml) at room temperature, and stirred for 3 hours. The precipitates were collected by filtration to give 3-[3-(2-hydroxy-3,3,3-trichloropropyl)pyridazin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.26 g).

reactant | 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.40 g | CC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H14N4
reactant | chloral hydrate | 0.70 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | water | 4 ml | O | H2O
product | 3-[3-(2-hydroxy-3,3,3-trichloropropyl)pyridazin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.26 g | OC(CC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C(Cl)(Cl)Cl | C20H15Cl3N4O
